US07648983B2
Ethyl 4-(3-bromophenyl)-2-hydroxypent-4-enoate
To a solution of 2-bromo-1-fluoro-4-(prop-1-en-2-yl)benzene (12.3 g, 62.2 mmol, 1.0 equiv) in acetonitrile (124 mL, 0.5 M) are added ethyl glyoxalate (38.1 g, 37 mL, 187 mmoles, 3 equiv) and ytterbium trifluoromethanesulfonate, hydrate (7.72 g, 12.4 mmoles, 0.2 equiv). The mixture is stirred overnight at room temperature. The mixture is concentrated under reduced pressure and diluted with diethyl ether. The resulting solution is washed twice with water. The organic layer is dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue is purified via flash column chromatography on silica gel (330 g) in two batches using a gradient of 0-100% ethyl acetate/hexanes to yield the title compound (87% yield): 1H NMR (CDCl3, 400 MHz): δ 7.53 (t, 1H, J=1.9 Hz), 7.41-7.37 (dt, 1H), 7.33-7.30 (dt, 1H), 7.18 (t, 1H, J=7.6 Hz), 5.37 (s, 1H), 5.22 (s, 1H), 4.26-4.21 (m, 1H), 4.17-3.99 (m, 2H), 2.99 (dd, J=14.8, 4.8 Hz), 2.83-2.72 (m, 2H), 1.23 (t, 3H, J=7.6 Hz).

reactant | 2-bromo-1-fluoro-4-(prop-1-en-2-yl)benzene | 62.2 mmol, 12.3 g, 1.0 equiv | BrC1=C(C=CC(=C1)C(=C)C)F | C9H8BrF
reactant | ethyl glyoxalate | 187 mmoles, 37 mL, 38.1 g, 3 equiv | C(C=O)(=O)OCC | C4H6O3
reactant | ytterbium trifluoromethanesulfonate, hydrate | 12.4 mmoles, 7.72 g, 0.2 equiv | O.FC(S(=O)(=O)[O-])(F)F.[Yb+3].FC(S(=O)(=O)[O-])(F)F.FC(S(=O)(=O)[O-])(F)F
solvent | acetonitrile | 0.5 M, 124 mL | C(C)#N | C2H3N
product | Ethyl 4-(3-bromophenyl)-2-hydroxypent-4-enoate | 87% yield | BrC=1C=C(C=CC1)C(CC(C(=O)OCC)O)=C | C13H15BrO3
